* Test ANN BSIM Model

.control
pre_osdi ann_bsim.osdi
.endc

.model NMOS1 ann_bsim(w=10e-6 l=1e-6)

N1 d g 0 NMOS1

Vds d 0 0
Vgs g 0 0

.dc Vgs 0 3 0.05 Vds 0 3 0.5

.options savecurrents

.control
run
plot vds#branch
.endc

.end