* Complete test for ANN model

.control
pre_osdi ann_bsim.osdi
.endc

.model NMOS1 ann_bsim(w=10e-6 l=10e-6)

* 使用电压源测量漏极电流
N1 d_int g 0 NMOS1
Vmeas d d_int 0

* 扫描 Vgs
Vds d 0 2
Vgs g 0 0

.dc Vgs 0 3 0.05

.options savecurrents

.control
run
* 绘制电流-电压特性
plot i(Vmeas)
* 保存数据
write ann_test.txt v(g) i(Vmeas)
.endc

.end