* Test ANN model

.control
pre_osdi bsim_nn.osdi
.endc

.model NMOS1 bsim_nn(w=10e-6 l=10e-6)

N1 d_int g 0 NMOS1
Vmeas d d_int 0

Vds d 0 2
Vgs g 0 0

.dc Vgs 0 3 0.05

.control
run
plot i(Vmeas)
.endc

.end