* Test ANN BSIM Model - 修正版

.control
pre_osdi ann_bsim.osdi
.endc

.model NMOS1 ann_bsim(w=10e-6 l=1e-6)

* 使用 Vmeas 测量漏极电流（与第一个网表相同的方法）
N1 d_int g 0 NMOS1
Vmeas d d_int 0

Vds d 0 0
Vgs g 0 0

.dc Vgs 0 3 0.05 Vds 0 3 0.5

.options savecurrents

.control
run
* 绘制电流-电压特性族
plot i(Vmeas)
* 保存数据
write ann_family.txt v(g) v(d) i(Vmeas)
.endc

.end